* EML Stage-B: shipped d2 weight MDAC, ALL 16 CODES -- monotonicity/DNL/INL.
*
* WHY THIS RE-RUN.  mdac_weight.inc quotes "all 64 codes ... monotonic YES,
* DNL -0.96 LSB", and mdac_weight_d2.inc claimed "Monotonicity is unaffected
* (each digit is still a 3-leg thermometer, still all-unit-device)".  BOTH
* were measured on the THERMOMETER digit, where three legs ride three
* independent lines and a code step only ever ADDS a leg.  The silicon is
* not that circuit any more: gen_mdac2.py ties switch 2's gate to switch 1's
* line, so a digit reads t0*1 + t1*2 and the 1->2 step turns leg 0 OFF while
* legs 1+2 turn ON.  That is a major carry, and major carries are exactly
* where a binary DAC loses monotonicity.  The old numbers therefore say
* nothing about what is being fabricated -- hence this bench.
*
* 16 codes, not 64: the shipped weight is the TWO-digit variant.  value =
* (a + b/4) units with a,b in 0..3, so LSB = 1/4 unit and FS = 3.75.
*
* DUT is mdac/mdac_weight_d2.inc -- the SIMULATION source, X-cards.  The
* lvsref/*.spice files use M-cards for LVS and will not bind against
* sky130's ngspice models (which are .subckt), so they cannot be simulated
* directly.  The .inc was made binary in the same commit as this bench, and
* the corresponding LVS reference (mdac_digit.spice) LVS-MATCHES the shipped
* mdac2_alpha_d2.gds, so the topology here is the taped-out one.
*
* Schematic level, no parasitics -- this re-states the claim the report
* already makes, on the correct topology.  Post-layout is a separate run.
*
* Run: ngspice -b char/mdac_d2_codes.spice
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt_mm
.include ../mdac/mdac_weight_d2.inc

.param iref=0.5u
.param vc=0.85

VDD   vdd   0 3.3
VCASC vcasc 0 {vc}

* reference leg: a diode-connected unit device off iref sets vg, exactly as
* the global pbias tree does for a real alpha weight.
* IREF SINKS from vg to ground.  Written vdd->vg it PUSHES into the same
* node the diode-connected XPD already sources into, so nothing sets the
* mirror gate and every leg delivered picoamps.
IREF vg 0 {iref}
XPD  vg  vg vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
* the shared /4 divider supplies the b digit's gate
XDIV4 vg vg4 vcasc vdd 0 mdac_div

* code bits, driven at the 3.3 V the level-shifted config lines deliver
VA0 a0 0 0
VA1 a1 0 0
VB0 b0 0 0
VB1 b1 0 0
* sign steering: direct path adds
VSGN  sgn  0 3.3
VSGNB sgnb 0 0

* hold the outputs at a mid-rail compliance point, not at a rail
VOP vop 0 0.9
VON von 0 0.9
VMP vop iout_p 0
VMN von iout_n 0

XW vg vg4 iout_p iout_n vcasc vdd 0 a0 a1 b0 b1 sgn sgnb mdac_alpha_d2

.control
set noaskquit
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 0.0
op
echo "CODE 0 ideal 0.0"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 0.0
op
echo "CODE 1 ideal 0.25"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 3.3
op
echo "CODE 2 ideal 0.5"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 3.3
op
echo "CODE 3 ideal 0.75"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 0.0
op
echo "CODE 4 ideal 1.0"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 0.0
op
echo "CODE 5 ideal 1.25"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 3.3
op
echo "CODE 6 ideal 1.5"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 3.3
op
echo "CODE 7 ideal 1.75"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 0.0
op
echo "CODE 8 ideal 2.0"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 0.0
op
echo "CODE 9 ideal 2.25"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 3.3
op
echo "CODE 10 ideal 2.5"
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 3.3
op
echo "CODE 11 ideal 2.75"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 0.0
op
echo "CODE 12 ideal 3.0"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 0.0
op
echo "CODE 13 ideal 3.25"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 3.3
op
echo "CODE 14 ideal 3.5"
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 3.3
op
echo "CODE 15 ideal 3.75"
print -i(VMP)
.endc
.end
